US09315489B2
Stage 60.1 3-Bromo-2-fluoro-N-(4-(trifluoromethoxy)phenyl)benzamide
A solution of oxalyl chloride (0.657 mL, 7.50 mmol) in DCM (10 mL) and of DMF (0.01 mL) were added to a suspension of 3-bromo-2-fluorobenzoic acid (1.095 g, 5 mmol) in DCM (10 mL) and the RM was stirred for at RT for 2 h. The solvent was evaporated off under reduced pressure. The residue was dissolved in DCE (10 mL), treated dropwise with a solution of 4-(trifluoromethoxy)aniline (0.744 mL, 5.50 mmol) and DIPEA (1.747 mL, 10.00 mmol) and the RM was stirred for at RT for 1 h. The RM was treated with an aq. NaHCO3 and extracted with DCM. The combined extracts were washed with water, dried over Na2SO4 and the solvent was evaporated off under reduced pressure to give the crude product which was purified by flash chromatography (Silica gel column, 100 g, n-hexane/EtOAc 2:1) to afford the title compound as beige crystals. UPLC-MS (Condition 2) tR=1.22 min, m/z=375.9/378.0 [M−H−]−.

reactant | oxalyl chloride | 7.50 mmol, 0.657 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-bromo-2-fluorobenzoic acid | 5 mmol, 1.095 g | BrC=1C(=C(C(=O)O)C=CC1)F | C7H4BrFO2
reactant | 4-(trifluoromethoxy)aniline | 5.50 mmol, 0.744 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | DIPEA | 10.00 mmol, 1.747 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-2-fluoro-N-(4-(trifluoromethoxy)phenyl)benzamide | BrC=1C(=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1)F | C14H8BrF4NO2
